US05194430
Step c: 3(R)-(Phosphonoacetyl]piperidine-2(R)-carboxylic acid, methyl ester
Mix trifluoroacetic acid (30 mL) with acetonitrile (10 mL) and add, by dropwise addition, to an ice-cold solution of N-(9-phenylfluorenyl)-3(R)-[(diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, tert-butyl ester (3.5 g, 5.8 mmol) in acetonitrile (40 mL) and water (4 mL). Stir for 15 minutes, warm to room temperature and stir for an additional hour. Pour into saturated aqueous sodium hydrogen carbonate (500 mL) and extract into ethyl acetate (3×200 mL). Evaporate to a residue and take up the residue in acetonitrile (20 mL) and methylene chloride (20 mL). Place under a nitrogen atmosphere and add trimethylsilyl chloride (5 mL, 35 mmol). Stir overnight then add water. Stir for 15 minutes then blow to a residue with a stream of dry nitrogen. Take up the residue in water (100 mL) and wash with toluene (5×100 mL). Freeze dry to give a residue. Take up the residue in methanol (10 mL) and isopropanol (5 mL). Add propylene oxide (5 mL) and filter to give the title compound.

reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(9-phenylfluorenyl)-3(R)-[(diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, tert-butyl ester | 5.8 mmol, 3.5 g | C1(=CC=CC=C1)C1C2=CC=CC=C2C=2C=CC=C(C12)N1[C@H]([C@@H](CCC1)C(CP(=O)(OCC)OCC)=O)C(=O)OC(C)(C)C | C35H42NO6P
reactant | sodium hydrogen carbonate | 500 mL | C(O)([O-])=O.[Na+]
reactant | trimethylsilyl chloride | 35 mmol, 5 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3(R)-(Phosphonoacetyl]piperidine-2(R)-carboxylic acid, methyl ester | P(=O)(O)(O)CC(=O)[C@H]1[C@@H](NCCC1)C(=O)OC | C9H16NO6P
